US07704995B2
N-(phenylmethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-carboxamide was synthesized according to the procedure above from 5-bromo-N-(phenylmethyl)pyridine-3-carboxamide and bis(pinacolato)diboron. Yield 49%. 1H NMR (400 MHz, CDCl3): 9.15 (br s, 1H), 9.02 (br s, 1H), 8.35 (br s, 1H), 7.32 (m, 5H), 6.42 (br, t, 1H), 4.62 (d, 2H), 1.29 (s, 12H); MS (EI) for C19H23N2O3B: 339 (MH+).

reactant | 5-bromo-N-(phenylmethyl)pyridine-3-carboxamide | BrC=1C=C(C=NC1)C(=O)NCC1=CC=CC=C1 | C13H11BrN2O
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | N-(phenylmethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-carboxamide | Yield 49% | C1(=CC=CC=C1)CNC(=O)C=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C19H23BN2O3
